US09035088B2
At room temperature, 2.3 g (0.06 mol) of lithium aluminum hydride in 100 ml absolute diethyl ether in a three-neck flask equipped with stirrer, dropping funnel and high-performance condenser are, while continuously stirring, admixed with a solution of 21.7 g (0.1 mol) of butyl ethyl(2-cyano-2-methylethyl)phosphinate (produced similarly to Example 10) in 100 ml of diethyl ether added dropwise at such a rate that there is a moderate boil of the diethyl ether. This is followed by refluxing for 1 hour and admixing of the reaction solution with 1.8 g (0.1 mol) of water, and the insoluble salts are filtered off, the solvent is removed in vacuo and the product is purified by chromatography to obtain 18.8 g (85% of theory) of butyl ethyl(2-methyl-3-aminopropyl)phosphinate as colorless oil.

reactant | lithium aluminum hydride | 0.06 mol, 2.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | butyl ethyl(2-cyano-2-methylethyl)phosphinate | 0.1 mol, 21.7 g | C(C)P(OCCCC)(=O)CC(C)C#N | C10H20NO2P
reactant | water | 0.1 mol, 1.8 g | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | butyl ethyl(2-methyl-3-aminopropyl)phosphinate | 18.8 g, 85% | C(C)P(OCCCC)(=O)CC(CN)C | C10H24NO2P
